US04711657
37.2 g (0.2 mol) of 1-fluoro-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one were dissolved in 200 ml of dimethylsulphoxide, 11.2 g (0.2 mol) of potassium hydroxide, dissolved in 24 ml of water, were added and 28.4 g (0.2 mol) of methyl iodide were added dropwise at 20° C., whilst cooling. The reaction mixture was subsequently stirred at room temperature for 24 hours and poured onto 1,000 ml of water, the mixture was extracted twice with 300 ml of methylene chloride each time, the combined organic phases were washed five times with 100 ml of water each time, the organic phase was dried over sodium sulphate, the solvent was distilled off, the residue was taken up in 100 ml of acetone and the mixture was filtered and the solvent was distilled off from the mother liquor. The residue was taken up in 150 ml of ethyl acetate, and 14.4 g (0.2 mol) of hydrogen chloride were passed in. Thereafter, the product was allowed to crystallise out. 33.8 g (72% of theory) of 1-fluoro-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one hydrochloride of melting point 142° C. were obtained.

reactant | 1-fluoro-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one | 0.2 mol, 37.2 g | FCC(C(CN1N=CN=C1)=O)(C)C | C8H12FN3O
reactant | potassium hydroxide | 0.2 mol, 11.2 g | [OH-].[K+]
reactant | methyl iodide | 0.2 mol, 28.4 g | CI | CH3I
reactant | hydrogen chloride | 0.2 mol, 14.4 g | Cl | ClH
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | 24 ml | O | H2O
solvent | water | 1,000 ml | O | H2O
product | 1-fluoro-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one hydrochloride | 33.8 g, 72% | Cl.FCC(C(C(C)N1N=CN=C1)=O)(C)C | InChI=1S/C9H14FN3O.ClH/c1-7(13-6-11-5-12-13)8(14)9(2,3)4-10;/h5-7H,4H2,1-3H3;1H
